US06362177B1
To a mixture of (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (0.150 mmol), 4-chloro-3-nitrobenzaldehyde (0.45 mmol), methanol (4.5 mL), and acetic acid (0.048 mL) was added NaBH3CN (0.75 mmol) in methanol (1.50 mL). The reaction mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature, loaded onto Varian™ SCX column, and washed with CH3OH. Product was eluted off using 2 N NH3 in CH3OH and concentrated to afford (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chloro-3-nitrobenzyl)pyrrolidine.

reactant | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | 0.150 mmol | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CNCC2)C=C(C=C1)C(F)(F)F | C19H25F3N4O4
reactant | 4-chloro-3-nitrobenzaldehyde | 0.45 mmol | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | acetic acid | 0.048 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.75 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 1.50 mL | CO | CH4O
solvent | methanol | 4.5 mL | CO | CH4O
product | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4-chloro-3-nitrobenzyl)pyrrolidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=C(C=C1)C(F)(F)F | C26H29ClF3N5O6
